US08008283B2
In similar manner to Example 8, furosemide can be reacted with EDC, HOBt and dibenzylamine in DMF to yield N,N-dibenzyl 5-aminosulfonyl-4-chloro-2-[(2-furanylmethyl)amino]benzamide.

reactant | furosemide | C=1C=C(OC1)CNC2=CC(=C(C=C2C(=O)O)S(=O)(=O)N)Cl | C12H11ClN2O5S
reactant | EDC
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | dibenzylamine | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
solvent | DMF | CN(C)C=O | C3H7NO
product | N,N-dibenzyl 5-aminosulfonyl-4-chloro-2-[(2-furanylmethyl)amino]benzamide | C(C1=CC=CC=C1)N(C(C1=C(C=C(C(=C1)S(=O)(=O)N)Cl)NCC=1OC=CC1)=O)CC1=CC=CC=C1 | C26H24ClN3O4S
